US07816391B2
Intermediate#10 Tert-butyl 5-amino-1-(4-methoxycarbonylphenyl)pyrazole-4-carboxylate
t-Butyl cyanoacetate (14.1 g, 100 mmol) was dissolved in triethyl orthoformate (24.8 mL, 150 mmol). Acetic anhydride (9.625 mL, 100 mL) was added and the mixture heated to 125° C. for 3 h and then volatiles were removed by evaporation under reduced pressure. The residue was dissolved in ethanol (100 mL) and methyl 4-hydrazinylbenzoate hydrochloride (Intermediate#123) (6.06 g, 30 mmol) and DIPEA (5.23 mL, 30 mmol) was added. The mixture was heated to reflux for 5 h and then evaporated under reduced pressure to leave a brown oil which was dissolved in ethyl acetate (300 mL) and washed with water (2×100 mL) and brine (100 mL), dried (MgSO4) and evaporated. The residue was purified by chromatography on silica gel (120 g silica, EtOAc/Hexane 0-50%) to give the title compound as a yellow solid. (7.1 g)

reactant | t-Butyl cyanoacetate | 100 mmol, 14.1 g | C(#N)CC(=O)OC(C)(C)C | C7H11NO2
reactant | triethyl orthoformate | 150 mmol, 24.8 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | Acetic anhydride | 9.625 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | methyl 4-hydrazinylbenzoate hydrochloride | 30 mmol, 6.06 g | Cl.N(N)C1=CC=C(C(=O)OC)C=C1
reactant | DIPEA | 30 mmol, 5.23 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | Tert-butyl 5-amino-1-(4-methoxycarbonylphenyl)pyrazole-4-carboxylate | NC1=C(C=NN1C1=CC=C(C=C1)C(=O)OC)C(=O)OC(C)(C)C | C16H19N3O4
